US08106043B2
N-(4-(2-(Piperidin-1-yl)ethyl)-3,4-dihydro-2H-benzo[b][1,4]thiazin-7-yl)thiophene-2-carboximidamide dihydrochloride:
A solution of N-(4-(2-(piperidin-1-yl)ethyl)-3,4-dihydro-2H-benzo[b][1,4]thiazin-7-yl)thiophene-2-carboximidamide (0.288 g, 0.745 mmol) in anhydrous methanol (8 mL) was treated with hydrochloric acid (1M in ether; 3.72 mL, 3.72 mmol). The reaction was stirred at room temperature for 0.5 hours and then concentrated to give an orange solid (0.34 g, 99%). 1H-NMR (DMSO-d6) δ 11.21 (brs, 1H), 11.16 (brs, 1H), 9.67 (brs, 1H), 8.69 (brs, 1H), 8.15 (brd, J=4.8 Hz, 1H), 8.11 (brd, J=3.0 Hz, 1H), 7.38-7.35 (m, 1H), 7.11-6.98 (m, 3H), 3.89-3.84 (m, 2H), 3.68-3.64 (m, 2H), 3.45-3.42 (m, 2H), 3.22-3.15 (m, 2H), 3.12-3.09 (m, 2H), 2.89-2.88 (m, 2H), 1.87-1.71 (m, 5H), 1.42-1.38 (m, 1H); ESI-MS (m/z, %): 387 (MH+, free base, 100), 194 (23); ESI-HRMS calculated for C20H27N4S2 (MH+, free base): 387.1671, observed: 337.1657; HPLC purity: 99% by area.

reactant | N-(4-(2-(piperidin-1-yl)ethyl)-3,4-dihydro-2H-benzo[b][1,4]thiazin-7-yl)thiophene-2-carboximidamide | 0.745 mmol, 0.288 g | N1(CCCCC1)CCN1C2=C(SCC1)C=C(C=C2)NC(=N)C=2SC=CC2 | C20H26N4S2
reactant | hydrochloric acid | 3.72 mmol, 1M, 3.72 mL | Cl | ClH
solvent | methanol | 8 mL | CO | CH4O
product | N-(4-(2-(Piperidin-1-yl)ethyl)-3,4-dihydro-2H-benzo[b][1,4]thiazin-7-yl)thiophene-2-carboximidamide dihydrochloride | 0.34 g, 99% | Cl.Cl.N1(CCCCC1)CCN1C2=C(SCC1)C=C(C=C2)NC(=N)C=2SC=CC2 | InChI=1S/C20H26N4S2.2ClH/c21-20(18-5-4-13-25-18)22-16-6-7-17-19(15-16)26-14-12-24(17)11-10-23-8-2-1-3-9-23;;/h4-7,13,15H,1-3,8-12,14H2,(H2,21,22);2*1H
